US09340546B2
NaH (3.958 mg, 0.09894 mmol) was added to a suspension of 2-amino-6-fluoro-N-(1H-pyrrolo[2,3-c]pyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (28 mg, 0.08995 mmol) (synthesized according to a procedure similar to Example 1 or Example 3a) and Met (11.49 mg, 5.039 μL, 0.08096 mmol) in DMF (3 mL) under N2. The suspension was stirred at RT for 5 h before water (2 drops) was added. The crude mixture was purified by fractionlynx HPLC. Clean fractions were liophilized to yield 2-amino-6-fluoro-N-(1-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (5 mg, 16%). MS (ES+) 326.1.

reactant | NaH | 0.09894 mmol, 3.958 mg | [H-].[Na+]
reactant | 2-amino-6-fluoro-N-(1H-pyrrolo[2,3-c]pyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.08995 mmol, 28 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C2C(=CN=C1)NC=C2 | C14H10FN7O
reactant | Met | 0.08096 mmol, 5.039 μL, 11.49 mg | N[C@@H](CCSC)C(=O)O | C5H11NO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | water | 2 drops | O | H2O
product | 2-amino-6-fluoro-N-(1-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 5 mg, 16% | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C2C(=CN=C1)N(C=C2)C | C15H12FN7O
